US08629160B2
Preparation of 2-(benzo[b]thiophen-3-yl)-2-(2-ethylphenylamino)acetic acid (I43)
Benzo[b]thiophen-3-ylboronic acid (500 mg, 2.81 mmol) and 2-oxoacetic acid hydrate (259 mg, 2.81 mmol) were dissolved in acetonitrile (20 ml), and then 2-ethylaniline (346 μl, 2.81 mmol) was added. The mixture was stirred at r.t. for 72 hours. The solvent was evaporated and the crude was used in the next step without any further purification.

reactant | Benzo[b]thiophen-3-ylboronic acid | 2.81 mmol, 500 mg | S1C2=C(C(=C1)B(O)O)C=CC=C2 | C8H7BO2S
reactant | 2-oxoacetic acid hydrate | 2.81 mmol, 259 mg | O.O=CC(=O)O
reactant | 2-ethylaniline | 2.81 mmol, 346 μl | C(C)C1=C(N)C=CC=C1 | C8H11N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(benzo[b]thiophen-3-yl)-2-(2-ethylphenylamino)acetic acid | S1C2=C(C(=C1)C(C(=O)O)NC1=C(C=CC=C1)CC)C=CC=C2 | C18H17NO2S
